US05434138
5a. Fmoc-Pro-D-Ala-NH2
3.36 g of DCC are added to a stirred solution of 5.4 g (16 mmol) of Fmoc-Pro-OH, 2 g of HCl.H-D-Ala-NH2 and 2.24 g of HOBt in 30 ml of dimethylformamide at 0° C. The mixture is left to stir at 0° C. for 1 hour and to stand at room temperature overnight. The precipitate is filtered off with suction and the filtrate is concentrated. The residue is dissolved in ethyl acetate and extracted by shaking successively with water, twice with saturated NaHCO3 solution, water, KHSO4 buffer and water. Fmoc-Pro-D-Ala-NH2 precipitates in the ethyl acetate phase during this and is filtered off with suction. The ethyl acetate mother liquor is concentrated and triturated with diethyl ether and filtered with suction.

reactant | DCC | 3.36 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Fmoc-Pro-OH | 16 mmol, 5.4 g | N1([C@H](C(=O)O)CCC1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C20H19NO4
reactant | HCl | 2 g | Cl | ClH
reactant | H-D-Ala-NH2 | N[C@H](C)C(=O)N | C3H8N2O
reactant | HOBt | 2.24 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Fmoc-Pro-D-Ala-NH2 | N1([C@H](C(=O)N[C@H](C)C(=O)N)CCC1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C23H25N3O4
